US07902197B2
A solution of 1-[2-amino-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.100 g, 0.287 mmol) and cyclohexyl isocyanate (0.37 mL, 2.9 mmol) in 3 mL of dichloroethane was stirred at reflux for 19 h, then concentrated to a residue. Column chromatography (10→50% EtOAc/hexanes) afforded 0.103 g (76%) of 1-cyclohexyl-3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea as a brown solid.

reactant | 1-[2-amino-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.287 mmol, 0.100 g | NC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H28N4O2Si
reactant | cyclohexyl isocyanate | 2.9 mmol, 0.37 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | 1-cyclohexyl-3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.103 g, 76% | C1(CCCCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C24H39N5O3Si
